Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Biliary Colic
 
Major Surgical or Invasive Procedure:
Open cholecystectomy
 
History of Present Illness:
___ hx IVDA c/b ?HCV referred for second opinion following an 
aborted laparoscopic cholecystectomy secondary to concern for 
malignancy which was converted to diagnostic laparoscopy with 
biopsy of gallbladder fundus. Interval work-up includes 
pathology negative for malignancy, negative tumor markers, and 
CTAP and MRI which, though not specifically protocoled for 
hepatic or biliary
lesions, are negative by review of reports.

Patient initially presented with 60lb unintentional weight loss 
over 6 months associated with loss of appetite, absent 
___ discomfort and subsequent stabilization of weight 
over preceding 2 months. He notes first being diagnosed with 
gallstones ___ years ago and was offered cholecystectomy at 
that time but was asymptomatic so deferred. 

His current presentation started with 4 days of progressive 
post-prandial then constant epigastric/chest pain ___ which 
prompted presentation to ___ Hsp where work-up was 
reportedly concerning for acute cholecystitis and where he was 
offered laparoscopic cholecystectomy but declined.  He 
subsequently
presented for interval cholecystectomy ___ which was 
aborted secondary to concern for malignancy and converted to 
laparoscopic biopsy of the gallbladder fundus.

Review of work-up including imaging reports, operative report, 
pathology report, and labs notable for cholelithiasis with 
asymmetric mural thickening, absent biliary obstruction, no 
discrete hepatic, cholecystic or pericholecystic lesions or 
lymphadenopathy, and negative tumor markers. Specific imaging
findings from RUQ u/s, CTAP, and MRI reports (images unavailable 
at time of consultation) notable for cholelithiasis, asymmetric 
gallbladder wall thickening, concern for 7cm gallbladder polyp 
on ultrasound, no intrahepatic or extrahepatic ductal dilation, 
and no discrete hepatic lesions on CT or MRI.

Since his operation, he has been feeling tired, has 
___ discomfort but tolerating a regular diet with 
stable weight and was otherwise well.

 
Past Medical History:
Cholelithiasis, ?HCV (apparent clearance in ___ per patient 
report, no records available), Depression, PTSD, Panic disorder

 
Social History:
___
Family History:
No gallbladder, liver, or biliary malignancy. Brother: CAD/CABG 
(at ___
 
Brief Hospital Course:
Mr. ___ was taken to the operating room on ___ for 
Surgical management of his cholecystitis. He underwent 
laparoscopic converted to open cholecystectomy. Details on the 
challenges of the procedure leading to conversion can be found 
in the operative note. 

After a short stay in the PACU, he was transferred to the floor. 
He received hydromorphone PCA, standing acetaminophen and PRN 
Ketorolac. Home done Clonazepam and Methadone were also started. 
He had a good night with pain ranging ___. On POP day 1, his 
diet was advanced, he ambulated and was transitioned into PO 
pain medications with adequate pain control. He received the 
last dose of hydromorphone around 7 pm on ___. On the night of 
___ morning ___, the patient communicated to be very 
upset about not receiving IV opioids and decided that if they 
were not given, he would like to leave. At this point, his 
abdomen was soft and appropriately tender, he moved around 
without limitation and his vital signs were normal. He was 
advised to stay to be discharged the day after as planned, but 
he decided to leave against medical advance. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methadone 50 mg PO DAILY 
2. ClonazePAM 1 mg PO DAILY 
3. ClonazePAM 1 mg PO ONE EXTRA DOSE AS NEEDED 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Every 8 hours Disp 
#*180 Tablet Refills:*0 
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen 400 mg 1 tablet(s) by mouth Every 8 hours Disp 
#*15 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every 4 hours Disp 
#*270 Tablet Refills:*0 
4.  ClonazePAM 1 mg PO DAILY  
5.  ClonazePAM 1 mg PO ONE EXTRA DOSE AS NEEDED  
6.  Methadone 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute-on-chronic cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
surgical management of your acute-on-chronic cholecystitis. You 
underwent laparoscopic converted to open cholecystectomy. You 
have recovered and are now ready to be discharged to home. 
Please follow the recommendations below to ensure a speedy and 
uneventful recovery. 
 
ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- You may start some light exercise when you feel comfortable.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
- You may resume sexual activity unless your doctor has told you 

otherwise.
 
HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 4 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during the procedure.

YOUR BOWELS:
- Constipation is a common side effect of narcotic pain 
medications. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.

PAIN MANAGEMENT:
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

WOUND CARE:
- Notify your surgeon if you notice excess or abnormal 
(foul-smelling, bloody, pus, etc.) drainage from your incision 
site.

Other:
-you may eat anything you like, as long as you are tolerating it
-please make sure to stay hydrated; drink lots of fluids
 
Followup Instructions:
___